US08912188B2
To a solution of methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (200 mg, 0.68 mmol) in DME (5.0 mL) and water (2 drops) was added 2-methyl-6-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (352 mg, 1.37 mmol), Pd(PPh3)4 (39 mg, 0.03 mmol), and K2CO3 (189 mg, 1.37 mmol) with stirring for 1 hour at 90° C. under atmosphere of nitrogen. The resulting mixture was concentrated in vacuo to give a residue, which was purified by silica gel column chromatography (1% ethyl acetate in petroleum ether) to give methyl 3-[methyl(propan-2-yl)amino]-2-(2-methyl-1H-indol-5-yl)quinoxaline-6-carboxylate as a light yellow solid (180 mg, 68%).

reactant | methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.68 mmol, 200 mg | ClC1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)OC | C14H16ClN3O2
reactant | 2-methyl-6-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 1.37 mmol, 352 mg | CC=1NC2=CC(=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C15H20BNO2
reactant | K2CO3 | 1.37 mmol, 189 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 5.0 mL | COCCOC | C4H10O2
catalyst | water | 2 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.03 mmol, 39 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-[methyl(propan-2-yl)amino]-2-(2-methyl-1H-indol-5-yl)quinoxaline-6-carboxylate | 180 mg, 68% | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=C2C=C(NC2=CC1)C)C(C)C | C23H24N4O2
